### PR TITLE
add non-negative numbers to generalize the type of ProdNormedZmodule

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

generalize the type of ProdNormedZmodule in ssrnum for use in mathcomp-analysis,
for that purpose add non-negative numbers on the model of posum's from mathcomp-analysis
preserving the naming scheme ("pos" becomes "nng") except for the main
notation ({posnum R} becomes {nonneg R}) and for %:num which becomes %:nngnum 

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

I didn't have to fix the documentation because the module in question was not yet documented, TODO though

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
A first version appeared in PR #416 from which it has been removed.

File: mathcomp/algebra/ssrnum.v [hunk 1]
```diff
@@ -5025,48 +5025,239 @@ End Exports.
...
+
+Lemma nonneg_maxr (K : numFieldType) (a : K) (x y : {nonneg K}) : a != 0 ->
+  `|a| * (maxr x y)%:nngnum =
+  (maxr (`|a| * x%:nngnum)%:nng (`|a| * y%:nngnum)%:nng)%:nngnum.
+Proof.
+move=> a0; rewrite /maxr /= /Order.TotalPOrderMixin.join /=; case: ifPn => yx /=.
+- rewrite ifT //=; apply ler_pmul => //; exact: nngnum_ge0.
+- rewrite ifF //=; apply/negbTE; apply: contra yx.
+  by rewrite nng_le /= -ler_pdivl_mull ?normr_gt0 // mulrA mulVr ?unitfE ?normr_eq0 // mul1r.
+Qed.
```
Comment (pi8027) [inline mathcomp/algebra/ssrnum.v]: The hypothesis `a != 0` can be dropped.

```coq
Lemma nonneg_maxr (R : numDomainType) (V : normedZmodType R)
                  (x : V) (y z : {nonneg R}) :
  `|x| * (maxr y z)%:nngnum =
  (maxr (`|x| * y%:nngnum)%:nng (`|x| * z%:nngnum)%:nng)%:nngnum.
Proof.
case: (leP y z)=> [|/ltW] Hyz.
- suff: (`|x| * y%:nngnum)%:nng <= (`|x| * z%:nngnum)%:nng by case: leP.
  exact: (ler_wpmul2l (normr_ge0 x) Hyz).
- suff: (`|x| * z%:nngnum)%:nng <= (`|x| * y%:nngnum)%:nng by case: ltP.
  exact: (ler_wpmul2l (normr_ge0 x) Hyz).
Qed.
```
or
```coq
Lemma nonneg_maxr (R : numDomainType) (x y z : {nonneg R}) :
  x%:nngnum * (maxr y z)%:nngnum =
  (maxr (x%:nngnum * y%:nngnum)%:nng (x%:nngnum * z%:nngnum)%:nng)%:nngnum.
Proof.
case: (leP y z)=> [|/ltW] Hyz.
- suff: (x%:nngnum * y%:nngnum)%:nng <= (x%:nngnum * z%:nngnum)%:nng.
    by case: leP.
  apply/ler_wpmul2l => //; exact/nngnum_ge0.
- suff: (x%:nngnum * z%:nngnum)%:nng <= (x%:nngnum * y%:nngnum)%:nng.
    by case: ltP.
  apply/ler_wpmul2l => //; exact/nngnum_ge0.
Qed.

**Comment by affeldt-aist** [comment]
@pi8027 Thanks. I hope to be able to address all comments by tomorrow.

File: mathcomp/algebra/ssrnum.v [hunk 2]
```diff
@@ -5025,48 +5025,236 @@ End Exports.
...
+End Order.
+
+Section NngNum.
+Context {R : numDomainType}.
+Implicit Types a : R.
+Implicit Types x y : {nonneg R}.
+
+Definition nngnum_gt0_def x (phx : phantom R x%:nngnum) := nngnum_ge0 x.
+
+Canonical addr_nngnum x y := @NngNum _ (x%:nngnum + y%:nngnum) (addr_ge0 x y).
```
Comment (pi8027) [inline mathcomp/algebra/ssrnum.v]: Could you declare an `Arguments` command specifying that the second argument of `NngNum` is a non-implicit argument?

File: mathcomp/algebra/ssrnum.v [hunk 3]
```diff
@@ -5025,48 +5025,236 @@ End Exports.
...
+
+Canonical mulr_nngnum x y := @NngNum _ (x%:nngnum * y%:nngnum) (mulr_ge0 x y).
+
+Lemma muln_nng_nngnum x n : 0 <= x%:nngnum *+ n.+1.
+Proof. by rewrite pmulrn_lge0. Qed.
+Canonical mulrn_nngnum x n := NngNum (muln_nng_nngnum x n).
```
Comment (pi8027) [inline mathcomp/algebra/ssrnum.v]: `Canonical mulrn_nngnum x n := @NngNum _ (x%:nngnum *+ n) (mulrn_wge0 n x).`

File: mathcomp/algebra/ssrnum.v [hunk 4]
```diff
@@ -5025,48 +5025,236 @@ End Exports.
...
+Lemma nonneg_maxr (K : numDomainType) (a : K) (x y : {nonneg K}) :
+  `|a| * (maxr x y)%:nngnum =
+  (maxr (`|a| * x%:nngnum)%:nng (`|a| * y%:nngnum)%:nng)%:nngnum.
+Proof.
+case: (leP x y)=> [|/ltW] Hyz.
+- suff: (`|a| * x%:nngnum)%:nng <= (`|a| * y%:nngnum)%:nng by case: leP.
+  exact: (ler_wpmul2l (normr_ge0 a) Hyz).
+- suff: (`|a| * y%:nngnum)%:nng <= (`|a| * x%:nngnum)%:nng by case: ltP.
+  exact: (ler_wpmul2l (normr_ge0 a) Hyz).
+Qed.
```
Comment (pi8027) [inline mathcomp/algebra/ssrnum.v]: Now you may put this lemma to the `NngNum` section. Additionally, there is a simpler proof:
```
move: y z; apply: wlog_le => y z hyz; first by rewrite joinC hyz joinC.
rewrite !join_r //; exact/ler_wpmul2l.
```

File: mathcomp/algebra/ssrnum.v [hunk 5]
```diff
@@ -5025,48 +5025,236 @@ End Exports.
...
+Hint Extern 0 ((0%R <= _)%O = true) => exact: nngnum_ge0 : core.
+Notation "x %:nng" := (nng_of_num (Phantom _ x)) : ring_scope.
+Notation "[ge0 'of' x ]" := (nngnum_gt0_def (Phantom _ x)) : ring_scope.
+Canonical nngnum_subType.
+Canonical nngnum_eqType.
+Canonical nngnum_choiceType.
+Canonical nngnum_porderType.
+Canonical nngnum_latticeType.
+Canonical nngnum_orderType.
+End Exports.
```
Comment (pi8027) [inline mathcomp/algebra/ssrnum.v]: The theory part (the `NngNum` section) has not been exported yet. The `NngNum` section should probably be moved after closing the `Nonneg` module.

File: mathcomp/algebra/ssrnum.v [hunk 6]
```diff
@@ -5025,48 +5025,236 @@ End Exports.
...
+
+End Nonneg.
```
Comment (pi8027) [inline mathcomp/algebra/ssrnum.v]: `Export Nonneg.Exports`.

File: mathcomp/algebra/ssrnum.v [hunk 7]
```diff
@@ -5025,48 +5025,236 @@ End Exports.
...
+
+Lemma muln_nng_nngnum x n : 0 <= x%:nngnum *+ n.+1.
+Proof. by rewrite pmulrn_lge0. Qed.
+Canonical mulrn_nngnum x n := NngNum (muln_nng_nngnum x n).
+
+Lemma zero_nng_ge0 : 0 <= 0 :> R. Proof. by []. Qed.
+Canonical zeror_nngnum := NngNum zero_nng_ge0.
+
+Lemma one_nng_ge0 : 0 <= 1 :> R. Proof. exact: ler01. Qed.
+Canonical oner_nngnum := NngNum one_nng_ge0.
```
Comment (pi8027) [inline mathcomp/algebra/ssrnum.v]:
```coq
Canonical zeror_nngnum := @NngNum R 0 (lexx 0).
Canonical oner_nngnum := @NngNum R 1 ler01.
```

File: mathcomp/algebra/ssrnum.v [hunk 8]
```diff
@@ -5025,48 +5025,236 @@ End Exports.
...
+  @Num.NormedMixin _ _ _ norm normD norm_eq0 normMn normrN.
 
 Canonical normedZmodType := NormedZmoduleType R (U * V) normedZmodMixin.
 
-Lemma prod_normE (x : U * V) : `|x| = Num.max `|x.1| `|x.2|. Proof. by []. Qed.
+Lemma prod_normE (x : normedZmodType) :
+  `| x | = (Num.max `| `| x.1 | |%:nng `| `|x.2| |%:nng)%:nngnum.
+Proof. by []. Qed.
 
 End ProdNormedZmodule.
```
Comment (pi8027) [inline mathcomp/algebra/ssrnum.v]: - `Import Nonneg Nonneg.Exports` is not necessary anymore.
- I don't get why there are `norm` and `norm'`.
- There are simpler proofs as follows:
```coq
Section ProdNormedZmodule.
Context {R : numDomainType} {U V : normedZmodType R}.

Definition norm (x : U * V) : R :=
  (Num.max (`| x.1 |%:nng) (`| x.2 |%:nng))%:nngnum.

Lemma normD x y : norm (x + y) <= norm x + norm y.
Proof.
rewrite /norm nng_leUx /=; apply/andP; split;
  case: (leP `|x.1|%:nng) => [|/ltW] Hx;
  case: (leP `|y.1|%:nng) => [|/ltW] Hy;
  exact/(le_trans (ler_norm_add _ _))/ler_add.
Qed.

Lemma norm_eq0 x : norm x = 0 -> x = 0.
Proof.
case: x=> x1 x2 /eqP; rewrite eq_le nng_leUx 2!normr_le0 -andbA /=.
by case/and3P => /eqP -> /eqP ->.
Qed.

Lemma normMn x n : norm (x *+ n) = (norm x) *+ n.
Proof.
by rewrite /norm pairMnE /=; case: leP => [|/ltW];
  rewrite nng_le /= !normrMn ler_muln2r => /predU1P [->|];
  rewrite ?mulr0n // -nng_le; [case: leP | case: ltP].
Qed.

Lemma normrN x : norm (- x) = norm x.
Proof.
by rewrite /norm /=; case: leP => [|/ltW];
  rewrite nng_le /= !normrN -nng_le; [case: leP | case: ltP].
Qed.

Definition normedZmodMixin :
  @Num.normed_mixin_of R [zmodType of U * V] (Num.NumDomain.class R) :=
  @Num.NormedMixin _ _ _ norm normD norm_eq0 normMn normrN.

Canonical normedZmodType := NormedZmoduleType R (U * V) normedZmodMixin.

Lemma prod_normE (x : normedZmodType) :
  `|x| = (Num.max `|x.1|%:nng `|x.2|%:nng)%:nngnum.
Proof. by []. Qed.

End ProdNormedZmodule.
```

**Comment by pi8027** [comment]
The type of non-negative numbers may allow us to use the bigop theory to reason about bigmaxr in mathcomp-analysis. This requires some more work.

**Comment by affeldt-aist** [comment]
> The type of non-negative numbers may allow us to use the bigop theory to reason about bigmaxr in mathcomp-analysis. 

It is already used in mathcomp-analysis to define a norm on matrices (see https://github.com/math-comp/analysis/tree/analysis_270, WIP).

**Comment by pi8027** [comment]
@affeldt-aist Great! I hope that will be integrated into mathcomp.

File: mathcomp/algebra/ssrnum.v (hunk 8 above)
Comment (pi8027) [reply mathcomp/algebra/ssrnum.v]: The above simplification may require to generalize `absr_nngnum`. See https://github.com/math-comp/math-comp/pull/417#discussion_r346058855.

Comment (affeldt-aist) [reply mathcomp/algebra/ssrnum.v]: Yes, it does work, but the generalization of absr_nngnum breaks inference in mathcomp-analysis. I am investigating it, that's why I have not yet marked it as resolved.

Comment (pi8027) [reply mathcomp/algebra/ssrnum.v]: With the absolute value function of type `froall (R : numDomainType), R -> R`, pretyping understands that the type of `0` in `|0| : R` is `R`. However, since the norm function has type `forall (R : numDomainType) (V : normedZmodType), V -> R`, `|0| : R` cannot be typed anymore. You probably should put a type annotation like `|0 : R|` in this case.

Comment (affeldt-aist) [reply mathcomp/algebra/ssrnum.v]: I solved my problem with a type annotation (^o actually).

**Comment by affeldt-aist** [comment]
I organize a migration of this PR to mathcomp-analysis, so that in the end it will simply turn into a removal of ProdNormedZmodule.

**Comment by CohenCyril** [comment]
@affeldt-aist can this PR be closed?

**Comment by affeldt-aist** [comment]
PR closed. Contents moves to PR #270.
